US09062081B1
As shown in Scheme 2, a new 3-arylpropyl trimethoxysilane compound, 3-(2-hydroxy-5-methylphenyl)-propyltrimethoxysilane (abbreviated PholTMS) was synthesized. 60 g of p-cresol and 100 g of 3-chloropropyltrimethoxysilane were mixed under reflux for 24 hours. The product was confirmed by NMR spectrum, and the yield was more than 99%. 1H NMR of PholTMS (400 MHz, CD3OD): δ0.65 (t, 2H), 1.56 (p, 2H), 2.34 (s, 3H), 2.63 (t, 2H), 3.58 (s, 9H), 6.5-7 (m, 3H).

reactant | p-cresol | 60 g | C1=CC(=CC=C1O)C | C7H8O
reactant | 3-chloropropyltrimethoxysilane | 100 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
product | 3-(2-hydroxy-5-methylphenyl)-propyltrimethoxysilane | yield was more than 99% | OC1=C(C=C(C=C1)C)CCC[Si](OC)(OC)OC | C13H22O4Si
